US07579359B2
Acetic anhydride (16 mL, 170 mmol) was cooled to 0° C., and formic acid (7.2 mL of 97% pure material, 190 mmol) was added over a period of ten minutes. The solution was stirred for 2.5 hours at room temperature and then added to a stirred solution of 3-amino-4-chloroquinoline (10.0 g, 56.0 mmol) in tetrahydrofuran (THF) (100 mL). The reaction was stirred for one hour at room temperature and then concentrated under reduced pressure. Methanol (50 mL) was added to the residue, stirred for 30 minutes, and removed under reduced pressure. The residue was then stirred with dichloromethane (150 mL) and saturated aqueous sodium bicarbonate (50 mL) for three days. A solid was present and was isolated by filtration and dried under high vacuum. The filtrate was concentrated under reduced pressure, and the residue was dissolved in methanol (400 mL). The solution was dried over potassium carbonate, filtered, and concentrated under reduced pressure. The residue was combined with the solid isolated by filtration to provide 9.6 g of 4-chloroquinolin-3-ylformamide as a brown solid.

reactant | Acetic anhydride | 170 mmol, 16 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 190 mmol, 7.2 mL | C(=O)O | CH2O2
reactant | 3-amino-4-chloroquinoline | 56.0 mmol, 10.0 g | NC=1C=NC2=CC=CC=C2C1Cl | C9H7ClN2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-chloroquinolin-3-ylformamide | 9.6 g | ClC1=C(C=NC2=CC=CC=C12)NC=O | C10H7ClN2O
